US06930120B2
(S)-2-(4-Fluoro-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid
The title compound was prepared from (S)-2-(4-fluorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)-oxazol-4-yl)-ethyl ester (95% ee; Chiralpak AD separation, 8×28 cm, 10% IPA/heptane, 275 nm) by the procedure described in Example 1.

reactant | (S)-2-(4-fluorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC([C@@](CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)F)=O | C18H19FO4
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | (S)-2-(4-Fluoro-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | FC1=CC=C(O[C@](C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2(CCCCC2)C)C)C=C1 | C29H34FNO5
